US09340527B2
To a solution of ethyl 1-((6-((tert-butyldimethylsilyl)oxy)quinolin-2-yl)methyl)piperidine-3-carboxylate (240 mg, 0.56 mmol) in EtOH (30 mL) was added HCl (3 N, 1 mL) dropwise at 0° C. The reaction mixture was stirred at room temperature for 2 h. The mixture was neutralized with sat. NaHCO3 and the organic solvent were removed. Then the mixture was extracted with DCM (3×10 mL). The combined organic layer was washed with brine (10 mL), dried (Na2SO4) and concentrated to give ethyl 1-((6-hydroxyquinolin-2-yl)methyl)piperidine-3-carboxylate as a white solid, 120 mg, Y: 60%, ESI-MS (M+H)+: 315.2. 1H NMR (400 MHz, CDCl3) δ: 7.86 (d, J=8.8 Hz, 2H), 7.54 (d, J=8.8 Hz, 1H), 7.29 (dd, J=9.2, 2.4 Hz, 1H), 7.05 (d, J=2.0 Hz, 1H), 4.09 (q, J=6.4 Hz, 2H), 3.90 (ABq, J=21.6, 13.6 Hz, 2H), 3.12-3.09 (m, 1H), 2.89-2.86 (m, 1H), 2.70-2.68 (m, 1H), 2.49-2.44 (m, 1H), 2.31-2.26 (m, 1H), 1.95-1.92 (m, 1H), 1.75-1.70 (m, 2H), 1.50-1.48 (m, 1H), 1.20 (t, J=7.2 Hz, 3H).

reactant | ethyl 1-((6-((tert-butyldimethylsilyl)oxy)quinolin-2-yl)methyl)piperidine-3-carboxylate | 0.56 mmol, 240 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=NC2=CC1)CN1CC(CCC1)C(=O)OCC | C24H36N2O3Si
reactant | HCl | 3 N, 1 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | ethyl 1-((6-hydroxyquinolin-2-yl)methyl)piperidine-3-carboxylate | OC=1C=C2C=CC(=NC2=CC1)CN1CC(CCC1)C(=O)OCC | C18H22N2O3
